US06537948B1
A mixture of 0.9 g of 5-benzyloxy-4-(methoxycarbonyl)methoxypyrimidine, 10% palladium/carbon and ethyl acetate was stirred for 3 hours at room temperature under hydrogen atmosphere. The reaction system was purged with nitrogen, then, the reaction solution was filtrated through Celite, and the filtrate was concentrated to obtain 0.574 g of 5-hydroxy-4-(methoxycarbonyl)methoxypyrimidine.

reactant | 5-benzyloxy-4-(methoxycarbonyl)methoxypyrimidine | 0.9 g | C(C1=CC=CC=C1)OC=1C(=NC=NC1)OCC(=O)OC | C14H14N2O4
catalyst | palladium/carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-4-(methoxycarbonyl)methoxypyrimidine | 0.574 g | OC=1C(=NC=NC1)OCC(=O)OC | C7H8N2O4
